US04125518
Preparation of 3,3-Dimethylol-1-Oxa-4-Azaspiro[4.5]Decane
Tris-(hydroxymethyl)-aminomethane (24.23 grams; 0.2 mole) and cyclohexanone (19.63 grams; 0.2 mole) were refluxed overnight in 150 mls of toluene, using a water separator to remove approximately 3.6 mls of water. The toluene was then removed by distillation and the residue was recrystallized from acetone to obtain 32 grams (79.5% of theoretical; m.p. 117°-119° C.) of the desired compound.

reactant | Tris-(hydroxymethyl)-aminomethane | 0.2 mole, 24.23 grams | OCC(N)(CO)CO | C4H11NO3
reactant | cyclohexanone | 0.2 mole, 19.63 grams | C1(CCCCC1)=O | C6H10O
reactant | water | O | H2O
solvent | toluene | 150 mls | C1(=CC=CC=C1)C | C7H8
product | 3,3-Dimethylol-1-Oxa-4-Azaspiro[4.5]Decane | C(O)C1(COC2(N1)CCCCC2)CO | C10H19NO3
